US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-(trifluoromethyl)pyridine-2-carboxamide
To a solution of 3-(trifluoromethyl)pyridine-2-carboxylic acid (47.5 mg, 0.249 mmol) in tetrahydrofuran (5 mL) were added N,N-dimethylformamide (2 drops) and oxalyl chloride (43.2 μL, 0.498 mmol), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in N,N-dimethylacetamide (6 mL), and the solution was stirred at room temperature. N-[6-(3-Aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (66 mg, 0.214 mmol) was added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0%→100% ethyl acetate-hexane) to give the title compound (72.5 mg, 70%) as a white solid.

reactant | 3-(trifluoromethyl)pyridine-2-carboxylic acid | 0.249 mmol, 47.5 mg | FC(C=1C(=NC=CC1)C(=O)O)(F)F | C7H4F3NO2
reactant | oxalyl chloride | 0.498 mmol, 43.2 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-Aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.214 mmol, 66 mg | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-(trifluoromethyl)pyridine-2-carboxamide | 72.5 mg, 70% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C(F)(F)F)C1 | C24H18F3N5O3
